US08541411B2
Preparation of 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid
An aqueous solution of 2 N LiOH (1.2 mL) was added to a solution of methyl 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate, prepared as described in Example 30 (180 mg, 0.4 mmol) in THF (10 mL) and stirred at 50° C. for 1 h. When TLC showed no starting material remaining, the mixture was cooled to rt and THF was removed under reduced pressure. The pH of the mixture was acidified to pH 3. The suspension was filtered and the filtrate was collected, and washed with water (10 mL) to give the product as a white solid (152 mg, yield 88%). 1H NMR (300 MHz, DMSO-d6): δ ppm 2.46 (s, 3H), 2.54 (s, 3H), 3.10 (t, 4H, J=4.8 Hz), 3.73 (t, 4H, J=4.8 Hz), 5.63 (s, 2H), 6.37 (d, 1H, J=7.8 Hz), 7.26 (t, 1H, J=7.8 Hz), 7.35 (d, 1H, J=2.4 Hz), 7.44 (d, 1H, J=2.4 Hz), 7.62 (d, 1H, J=7.8 Hz); LC-MS: m/e=434 [M+1]+.

reactant | LiOH | 2 N, 1.2 mL | [Li+].[OH-]
reactant | methyl 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)OC)N2CCOCC2 | C23H24F3N3O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | 152 mg, yield 88% | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)O)N2CCOCC2 | C22H22F3N3O3
